US05780483
a) Preparation of N-(2-tert-butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea
N-(2-tert-Butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea was prepared by treating a biphasic solution of 2-tert-butyldimethysilyloxy-4-nitroaniline(80 mg, 0.308 mmol) and NaHCO3 in CHCl3 :H2O(2.5:1, 7 mL) with thiophosgene at 0° C. The solution was allowed to warm to 23° C. and the reaction was continued overnight. The CHCl3 layer was separated and dried over sodium sulfate. The solution was concentrated in vacuo and the residue was dissolved in toluene and treated with aniline (100 uL) at 23° C. for 12 h. The reaction mixture was concentrated and the residue was purified by flash chromatography (10% EtOAc/hexanes) to afford the titled compound as a yellow solid (120.8 mg, 98%) mp: 144°-145° C.;1H NMR (CD3OD/CDCl3): d 8.65 (d, 1H, J=10.0 Hz), 7.58 (d, 1H, J=10.0 Hz), 7.47 (d, 1H, J=1.25 Hz), 7.26 (m, 4H), 7.10(m, 1H).

reactant | 2-tert-butyldimethysilyloxy-4-nitroaniline | 0.308 mmol, 80 mg | [Si](C)(C)(C(C)(C)C)OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C12H20N2O3Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | CHCl3 H2O | 7 mL | C(Cl)(Cl)Cl.O
product | N-(2-tert-butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea | 120.8 mg, 98% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=S)NC1=CC=CC=C1 | C19H25N3O3SSi
